US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 2-(5-chloro-2-fluorophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane were coupled in the same way as in Example 30 to give 2-[3-(5′-chloro-2,2′-difluorobiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol as an off-white solid (6 mg, 3%): m/z (ES+) 417 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 2-(5-chloro-2-fluorophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane | ClC=1C=CC(=C(C1)B1OCC(CO1)(C)C)F | C11H13BClFO2
product | 2-[3-(5′-chloro-2,2′-difluorobiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol | 6 mg, 3% | ClC=1C=CC(=C(C1)C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)F)F | C22H16ClF3N2O
